US07427632B2
4-{2-[(3-Chloro-1H-indole-6-carbonyl)amino]-2-(4-pyridinyl)-ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester
Using coupling method A, 4-[2-amino-2-(4-pyridinyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester (233 mg, 0.69 mmol) and 3-chloroindole-6-carboxylic acid (149 mg, 0.76 mmol) afforded, after purification (SiO2: 10 DCM:2 EtOAc:2 Hexane:3 isopropyl amine), 118 mg (33%) of the title compound.

reactant | 4-[2-amino-2-(4-pyridinyl)-ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester | 0.69 mmol, 233 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=CC=NC=C1)N | C18H29N3O3
reactant | 3-chloroindole-6-carboxylic acid | 0.76 mmol, 149 mg | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
product | 4-{2-[(3-Chloro-1H-indole-6-carbonyl)amino]-2-(4-pyridinyl)-ethoxymethyl}piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COCC(C1=CC=NC=C1)NC(=O)C1=CC=C2C(=CNC2=C1)Cl | C27H33ClN4O4
